US08957203B2
A solution of 6-methoxy-3-methylquinoxalin-2(1H)-one & 7-methoxy-3-methylquinoxalin-2(1H)-one (1.2 g, 6.31 mmol) in POCl3 (10 ml) was refluxed for 3 h. The solvent was evaporated under reduced pressure and the residue was diluted with cold water. The aqueous solution was basified by solid sodium carbonate and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography (20% ethyl acetate in pet ether) to get regioisomers as a mixture. The mixture of regioisomers were separated by SFC purification to afford 2-chloro-6-methoxy-3-methylquinoxaline (0.51 g, 38.7%) and 3-chloro-6-methoxy-2-methylquinoxaline (required isomer) (0.48 g, 36.5%) as off white solids.

reactant | 6-methoxy-3-methylquinoxalin-2(1H)-one | COC=1C=C2N=C(C(NC2=CC1)=O)C | C10H10N2O2
reactant | 7-methoxy-3-methylquinoxalin-2(1H)-one | 6.31 mmol, 1.2 g | COC1=CC=C2N=C(C(NC2=C1)=O)C | C10H10N2O2
reactant | POCl3 | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-6-methoxy-3-methylquinoxaline | 0.51 g, 38.7% | ClC1=NC2=CC=C(C=C2N=C1C)OC | C10H9ClN2O
